US04980349
d) Preparation of 4-[4-(2-thenoyl)benzenesulphonamido]butyric acid
103 mg (1.10-3 mole) of 4-aminobutyric acid dissolved in 4 ml of a 0.5 N solution of caustic soda are added dropwise to 287 mg (1.10-3 mole) of 4-(2-thenoyl)benzenesulphonyl chloride in 5 ml of ethyl ether.

reactant | 4-aminobutyric acid | 1.10-3 mole, 103 mg | NCCCC(=O)O | C4H9NO2
reactant | 4-(2-thenoyl)benzenesulphonyl chloride | 1.10-3 mole, 287 mg | C1(=CC=CS1)C(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C11H7ClO3S2
solvent | caustic soda | [OH-].[Na+]
solvent | ethyl ether | 5 ml | C(C)OCC | C4H10O
product | 4-[4-(2-thenoyl)benzenesulphonamido]butyric acid | C1(=CC=CS1)C(=O)C1=CC=C(C=C1)S(=O)(=O)NCCCC(=O)O | C15H15NO5S2
